US05646149
Preparation of 6-hydroxy-2-methoxy-2,5,7,8-tetramethylchroman.
Concentrated sulfuric acid (0.8 mL) was added dropwise to a solution of trimethyl orthoformate (Aldrich, 48.5 g, 457.0 mmol) and trimethyl hydroquinone (Aldrich, 50.0 g, 328.5 mol) in methanol (200 mL), cooled by a water/ice bath. Methyl vinyl ketone (Aldrich, 46.05 g, 657.0 mmol) was added slowly (1.5 h) to the reaction mixture while the reaction mixture was cooled by an ice/water bath. A pasty slurry formed. The reaction mixture was allowed to come to ambient temperature and was stirred at ambient temperature for 48 h. The reaction mixture was diluted with diethyl ether (600 mL) and the resulting solution was extracted with water (2×200 mL) and saturated aqueous sodium bicarbonate (2×100 mL). The organic solution was dried (sodium sulfate) and concentrated in vacuo to give a tan solid. The solid was recrystallized from methanol to give 71.8 g (92.6%) of the desired product as a tan solid.

reactant | sulfuric acid | 0.8 mL | S(O)(O)(=O)=O | H2O4S
reactant | trimethyl orthoformate | 457.0 mmol, 48.5 g | C(OC)(OC)OC | C4H10O3
reactant | trimethyl hydroquinone | 328.5 mol, 50.0 g | CC=1C(=C(C(=C(O)C1)C)C)O | C9H12O2
reactant | Methyl vinyl ketone | 657.0 mmol, 46.05 g | C(=C)C(=O)C | C4H6O
solvent | methanol | 200 mL | CO | CH4O
solvent | diethyl ether | 600 mL | C(C)OCC | C4H10O
product | 6-hydroxy-2-methoxy-2,5,7,8-tetramethylchroman | 71.8 g, 92.6% | OC=1C(=C2CCC(OC2=C(C1C)C)(C)OC)C | C14H20O3
